Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status  
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of 
hypertension and osteoporosis, who is presenting with confusion. 
Patient is unable to give a history due to confusion. Per review 
of outpatient and ED records, patient recently returned from 
___ after a 2 month trip with her daughter. She was in her 
usual state of health until around 5 days ago, when she started 
to seem confused. She lives with her family, who noted that she 
was occasionally confused, slurring speech, disoriented, unable 
to speak in full sentences. Also noted to have worsening 
appetite. She is normally fully independent, with no speech 
difficulties or memory issues. They report no trauma or falls, 
no fevers, no CP SOB abd pn N/V/D dysuria, urinary urgency or 
frequency. She was first taken to urgent care clinic at ___ 
___, where workup was significant for a normal CBC, BMP, 
CXR, and UA. Her blood pressure in clinic was 160/95. 

Per Atrius review: daughter denies any home meds, has been in 
___ for last two months. Stopped taking lisinopril "years 
ago."

ED course notable for:  

-BP 203/89 on arrival, downtrended to 150s/80s and remained 
stable for 7+ hours after bolus of 5mg IV diltiazem.  

Exam: On initial exam patient oriented x1.significant word 
finding difficulty, only able to speak in single or few word 
sentences.
No signs of trauma, No gaze deviation. PERRL CN ___ intact. No 
nystagmus. ___ strength in distal and proximal extremities. RRR 
no m/g/r lungs CTAB abd soft ntnd. Skin warm, well perfused.  

-CBC, chem panel, LFTs, and urine tox unremarkable.  

-CT head with likely chronic small vessel disease, no acute 
process  

-Neurology evaluated felt consistent with hypertensive 
encephalopathy. Recommended 324 mg ASA which she received, 81mg 
ASA daily starting ___, and nonurgent MRI brain w & w/o 
contrast 

ED course: mental status improved after 5mg dilt with BPs 160s 
systolic. Patient able to speak in full sentences, oriented x2. 
Neuro following as consult service

On arrival to the floor, patient reports "I feel fine". When 
asked what brought her to the hospital, states "I was confused." 
States she does not take medications at home. Reports no pain. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI  

 
Past Medical History:
- hypertension  
- Osteoporosis  
 
 
Social History:
___
Family History:
- Sister - stroke 
 
Physical ___:
==============================
EXAM ON ADMISSION 
==============================
VS: T 98.4, HR 62, BP 167/92, RR 18, 95% Ra  
GENERAL: thin appearing, NAD 
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple with no meningismus, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, oriented to place, not to date. CN ___ intact. 
Strength ___ in upper and lower extremities. Gait deferred 
DERM: warm and well perfused, no excoriations or lesions, no 
rashes  

==============================
EXAM ON DISCHARGE 
==============================
GENERAL: thin appearing, NAD 
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: Alert, oriented to place, date. CN ___ intact. Strength
___ in upper and lower extremities. Gait deferred
 
Pertinent Results:
================================  
LABS ON ADMISSION  
================================  
___ 08:20PM BLOOD WBC-5.2 RBC-4.61 Hgb-13.1 Hct-40.0 MCV-87 
MCH-28.4 MCHC-32.8 RDW-13.8 RDWSD-43.6 Plt ___
___ 08:20PM BLOOD Neuts-54.5 ___ Monos-12.1 Eos-2.5 
Baso-1.3* Im ___ AbsNeut-2.84 AbsLymp-1.53 AbsMono-0.63 
AbsEos-0.13 AbsBaso-0.07
___ 08:20PM BLOOD Glucose-90 UreaN-21* Creat-1.0 Na-140 
K-4.5 Cl-99 HCO3-27 AnGap-14
___ 10:00AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.0
___ 08:20PM BLOOD ALT-14 AST-29 AlkPhos-77 TotBili-0.3
___ 08:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

================================  
PERTINENT INTERVAL LABS  
================================  
___ 08:20PM BLOOD TSH-1.3
___ 08:38PM BLOOD %HbA1c-5.9 eAG-123
___ 08:20PM BLOOD VitB12-722

================================  
LABS ON DISCHARGE  
================================  
___ 05:15AM BLOOD WBC-5.8 RBC-4.79 Hgb-13.2 Hct-41.4 MCV-86 
MCH-27.6 MCHC-31.9* RDW-13.8 RDWSD-43.8 Plt ___
___ 05:15AM BLOOD Glucose-90 UreaN-24* Creat-1.0 Na-140 
K-4.6 Cl-99 HCO3-31 AnGap-10
___ 05:15AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.3

================================  
IMAGING  
================================  
 
___ CT head w/o contrast:
1. No intracranial hemorrhage or acute territorial infarct. 
2. Extensive periventricular white-matter changes likely reflect 
chronic small vessel disease but are nonspecific.  Comparison 
with prior imaging would be helpful.  If none is available, MRI 
could be considered to evaluate for smaller areas of 
ischemia/infarction.

___ MR HEAD:
1.  Acute infarcts are noted in the left internal capsule, 
thalamus and body of the left corpus callosum. 
2.  Severe white matter microangiopathic changes with associated 
chronic 
microhemorrhages are nonspecific, but in the differential 
diagnosis consider hypertensive vasculopathy or cerebral amyloid 
angiopathy with related inflammation (vasculopathy). 
3.  Two punctate 1 mm foci of enhancement the posterior 
subcortical white 
matter of the frontal lobes, are nonspecific with a broad 
differential 
diagnosis, including but not limited to infective/inflammatory 
disease, or 
metastatic disease if the patient is known  a primary 
malignancy.  Short-term interval follow-up advised. 

___ CTA HEAD/NECK:
1. Acute infarcts are again noted in the left internal capsule, 
left thalamus 
and body of left corpus callosum. 
2. Marked white matter hypodense changes are most likely sequela 
of 
microangiopathy. 
3. Multiple short-segment intracranial arterial narrowing 
suggestive of 
atherosclerotic disease as described above.  No evidence of 
high-grade 
stenosis or occlusion.  No aneurysm. 
4. No proximal ICA stenosis by NASCET criteria.  The vertebral 
arteries are 
patent bilateral.  Essentially unremarkable CTA of the neck. 
5. Additional chronic findings as described above, including C1 
through C3 
cervical fusion and 50% anterolisthesis of C2 on C3. 

TTE ___
The left atrium is normal in size. There is no evidence for an 
atrial septal defect by 2D/color Doppler.
The estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with a
normal cavity size. There is normal regional and global left 
ventricular systolic function. No thrombus
or mass is seen in the left ventricle. Quantitative biplane left 
ventricular ejection fraction is 56 %. There
is no resting left ventricular outflow tract gradient. Normal 
right ventricular cavity size with normal free
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for
gender. The aortic valve leaflets (3) are mildly thickened. No 
masses or vegetations are seen on the
aortic valve. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets
are mildly thickened with no mitral valve prolapse. No masses or 
vegetations are seen on the mitral
valve. There is mild [1+] mitral regurgitation. No 
masses/vegetations are seen on the pulmonic valve.
The tricuspid valve leaflets appear structurally normal. No 
mass/vegetation are seen on the tricuspid
valve. There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is
normal. There is a trivial pericardial effusion.
IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septal defect,
intracardiac thrombus, or vegetation) seen. Normal biventricular 
wall thicknesses, cavity sizes, and
regional/global systolic function. Mild mitral regurgitation. 
Mild tricuspid regurgitation.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
hypertension and osteoporosis, who presented with encephalopathy 
due to hypertensive emergency. She was found to have acute 
cerebral infarcts on MRI head. 

#Acute cerebral infarcts
#Encephalopathy, likely hypertensive encephalopathy
Patient presenting with confusion in setting of high blood 
pressures with systolics in the 200s. She was found to be 
afebrile, and infectious workup and tox screen otherwise 
negative. Neurology was consulted. ___ with no acute process. 
No signs of increased ICP on exam. EEG showed slowing. On MRI, 
she was found to have infarcts in the left internal capsule, 
thalamus and body of the left corpus callosum (along with severe 
white matter changes). This was attributed most likely to HTN. 
CTA Head/Neck showed diffuse intracranial atherosclerotic 
disease. Telemetry revealed no arrhythmia. TTE also unrevealing 
for stroke workup. The patient was started on Aspirin 81mg, 
amlodipine 5mg PO daily and atorvastatin 40mg. She should be 
referred to a stroke neurologist (for continued consideration of 
dual antiplatelet therapy changes). Recommend continued 
titration of BP medications in clinic. 

# Concern for Malnutrition
BMI 18. Albumin found to be normal. Patient was seen by the 
nutrition team, and discharged on a multivitamin. 

TRANSITIONAL ISSUES 
=============== 
- The patient was started on amlodipine 5mg PO daily, Aspirin 
81mg and atorvastatin 40mg. 
- Patient should be referred to a stroke neurologist (for 
continued consideration of antiplatelet therapy changes). 
- Recommend continued titration of BP medications in clinic. 
- Recommend short-term interval follow-up for MRI finding of two 
punctate 1 mm foci of enhancement the posterior subcortical 
white matter of the frontal lobes, which are nonspecific with a 
broad differential diagnosis, including but not limited to 
infective/inflammatory disease, or metastatic disease if the 
patient is known a primary malignancy.

#CODE: Full (presumed) 
#CONTACT: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis 
- hypertensive encephalopathy 
- hypertensive cerebral infarct 

Secondary Diagnoses
- hypertension
- osteoporosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were very confused.  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We looked for reasons for your confusion. 
- We found that you have a stroke on the left part of your 
brain, this was probably from your blood pressure being too high
- We added blood pressure medication
- Your thinking improved

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___